US06893650B1
a) 2-(4-Nitro-2,5-xylyl)benzo[b]thiophene
A mixture of 2-bromo-5-nitro-p-xylene (200 g), 2-benzo[b]thiopheneboronic acid (200 g), (Ph3P)4Pd (0.36 g) in toluene (60 ml) and ethanol (22 ml) was heated to reflux overnight. Ethyl acetate and water were added and the organic phase was separated. The organic phase was washed with water, dried (MgSO4) and filtered through a pad of silica to give the title product.

reactant | 2-bromo-5-nitro-p-xylene | 200 g | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
reactant | 2-benzo[b]thiopheneboronic acid | 200 g | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 22 ml | C(C)O | C2H6O
catalyst | (Ph3P)4Pd | 0.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Nitro-2,5-xylyl)benzo[b]thiophene | [N+](=O)([O-])C1=CC(=C(C=C1C)C1=CC2=C(S1)C=CC=C2)C | C16H13NO2S
